US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-3,4-dichlorobenzamide
A mixture of 314 mg of 3,4-dichlorobenzoyl chloride and 151 mg of triethylamine in 2 ml of methylene chloride is stirred while 314 mg of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine in 5 ml of methylene chloride is added. Stirring is continued for 2 hours. The reaction mixture is partitioned with water and the organic layer is washed 1N HCl, water, 0.5N NaOH and brine. The organic layer is dried with Na2SO4 and passed through a short pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 0.35 g of off-white crystalline solid, m.p. 238°-241° C.

reactant | 3,4-dichlorobenzoyl chloride | 314 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | triethylamine | 151 mg | C(C)N(CC)CC | C6H15N
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 314 mg | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]phenyl]-3,4-dichlorobenzamide | 0.35 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=CC(=C(C=C3)Cl)Cl)=O | C28H20Cl2N2O2
